US05686445
N-[4-[(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)carbonyl]phenyl]-2-methylbenzamide
To a mixture of 1.37 g (5 mmol) of 4-[(2-methylbenzoyl)amino]benzoyl chloride and 0.061 g of 4-(dimethylamino)pyridine in 4 ml of pyridine is added 0.975 g (5 mmol) of 10,11-dihydro-5H-dibenz[b,f]azepine. The mixture is heated at 80° C. for 18 hours and then 0.2 g of sodium hydride (60% in oil) (5 mmol) is added. The mixture is refluxed for 2 hours, diluted with dichloromethane and water and then filtered. To the filtrate is added 1N HCl and the mixture filtered. The filtrate is dried (Na2 SO4) and the solvent removed to give a solid. The solid (1.1 g) is chromatographed on thick layer silica gel plates to give 70 mg of yellow solid, m.p. 112°-118° C.

reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 5 mmol, 1.37 g | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | 10,11-dihydro-5H-dibenz[b,f]azepine | 5 mmol, 0.975 g | C1=CC=CC=2NC3=C(CCC21)C=CC=C3 | C14H13N
reactant | sodium hydride | 5 mmol, 0.2 g | [H-].[Na+]
catalyst | 4-(dimethylamino)pyridine | 0.061 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[4-[(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)carbonyl]phenyl]-2-methylbenzamide | 70 mg | C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C29H24N2O2
